US04730003
2-(1-Propyl)-7,7-dimethyl-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one
According to the process of Example 5, from 0.7 g. (2.7 mmole) 5-amino-6-n-propylcarbonylamino-3,3-dimethylindolin-2-one and 7 ml. butyric acid, after 1 hour at 100° C., there is obtained 0.4 g. (61% of theory) of the title compound; m.p. 284°-285° C.

reactant | 5-amino-6-n-propylcarbonylamino-3,3-dimethylindolin-2-one | 2.7 mmole | NC=1C=C2C(C(NC2=CC1NC(=O)CCC)=O)(C)C | C14H19N3O2
reactant | butyric acid | C(CCC)(=O)O | C4H8O2
product | 2-(1-Propyl)-7,7-dimethyl-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one | C(CC)C=1NC2=C(N1)C=C1C(=C2)NC(C1(C)C)=O | C14H17N3O
